US04500714
To a mixture of 2-aminopyridine (28.2 g), triethylamine (45 ml) and acetone (600 ml), 3-nitrobenzoyl chloride (55.8 g) was gradually added with stirring under ice cooling. The mixture was stirred for 30 minutes under the same condition, then for one hour at room temperature. Thereafter, the reaction solution was poured into 3 liters of water, and the resulting crystal was collected by filtration, washed with water, and recrystallized from methanol to provide 58.5 g of 3-nitro-N-2-pyridylbenzamide as a colorless acicular crystal (yield: 80%, m.p. 156°-157° C.). Hydrogen was bubbled into a mixture of the 3-nitro-N-2-pyridylbenzamide (15.9 g), 10% palladium-carbon (1.5 g) and ethanol (300 ml). After a stoichiometric amount of hydrogen was absorbed, the catalyst was removed, the reaction mixture was concentrated under vacuum, and the residue was recrystallized from ethanol to provide 7.2 g of a colorless acicular crystal of 3-amino-N-2-pyridylbenzamide (yield: 52%, m.p. 113°-115° C.). To a mixture of the 3-amino-N-2-pyridylbenzamide (6.4 g), triethylamine (4.5 ml) and acetone (60 ml), propionic acid chloride (2.8 g) was gradually added with stirring at room temperature. After one hour of stirring, the reaction mixture was poured into 200 ml of water which was then made weakly alkaline by gradually adding a 10% solution of sodium hydroxide. The resulting crystal was collected by filtration, washed with water and recrystallized from methanol to provide 7.0 g of 3-propionyl-N-2-pyridylbenzamide as a colorless acicular crystal (compound 1) (yield: 87%, m.p. 128°-129° C.).

reactant | 2-aminopyridine | 28.2 g | NC1=NC=CC=C1 | C5H6N2
reactant | triethylamine | 45 ml | C(C)N(CC)CC | C6H15N
reactant | acetone | 600 ml | CC(=O)C | C3H6O
reactant | 3-nitrobenzoyl chloride | 55.8 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | water | 3 liters | O | H2O
product | 3-nitro-N-2-pyridylbenzamide | 58.5 g | [N+](=O)([O-])C=1C=C(C(=O)NC2=NC=CC=C2)C=CC1 | C12H9N3O3
